US08703761B2
N-(2-Benzyl-5-phenyl-2H-pyrazol-3-yl)-2-[3-(2-chloro-phenyl)-ureido]-2-methyl-propionamide
2-Amino-2-methyl-propionyl chloride hydrochloride (150 mg, 1.2 mmol) and 2-benzyl-5-phenyl-2H-pyrazol-3-ylamine (200 mg, 0.8 mmol) were stirred in DCM (5 mL) containing triethyl amine (100 μL, 0.8 mmol). After two hours, 2-chlorophenyl isocyanate (220 mg, 0.9 mmol) and triethyl amine (100 μL, 0.8 mmol) were added. Purification by silica gel chromatography gave the title compound. 1H NMR (400 MHz, DMSO-D6) δ 1.44 (s, 6H) 5.23 (s, 2H) 6.54 (s, 1H) 6.92 (s, 1H) 7.17 (s, 4H) 7.24 (s, 3H) 7.36 (s, 3H) 7.55 (s, 1H) 7.74 (s, 2H) 8.04 (s, 1H) 8.15 (s, 1H) 9.81 (s, 1H). m/z 488.0 (MH+).

reactant | 2-Amino-2-methyl-propionyl chloride hydrochloride | 1.2 mmol, 150 mg | Cl.NC(C(=O)Cl)(C)C
reactant | 2-benzyl-5-phenyl-2H-pyrazol-3-ylamine | 0.8 mmol, 200 mg | C(C1=CC=CC=C1)N1N=C(C=C1N)C1=CC=CC=C1 | C16H15N3
reactant | triethyl amine | 0.8 mmol, 100 μL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorophenyl isocyanate | 0.9 mmol, 220 mg | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | triethyl amine | 0.8 mmol, 100 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Benzyl-5-phenyl-2H-pyrazol-3-yl)-2-[3-(2-chloro-phenyl)-ureido]-2-methyl-propionamide | C(C1=CC=CC=C1)N1N=C(C=C1NC(C(C)(C)NC(=O)NC1=C(C=CC=C1)Cl)=O)C1=CC=CC=C1 | C27H26ClN5O2
